US06521666B1
A mixture of 3,5-dimethoxybenzyl alcohol (4.0 g), t-butyl-diphenylsilyl chloride (6.54 g) and imidazole (3.28 g) in DMF (60 mL) was stirred at room temperature for 24 h. DMF was evaporated and the residue was purified by column chromatography (silica gel; eluent: hexane to hexane/EtOAc 20%) to yield 8.5 g of 3,5-dimethoxy-1-[(t-butyldiphenylsilyloxy)methyl]benzene. ESMS: m/z 407 (MH+).

reactant | 3,5-dimethoxybenzyl alcohol | 4.0 g | COC=1C=C(CO)C=C(C1)OC | C9H12O3
reactant | t-butyl-diphenylsilyl chloride | 6.54 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 3.28 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 3,5-dimethoxy-1-[(t-butyldiphenylsilyloxy)methyl]benzene | 8.5 g | COC=1C=C(C=C(C1)OC)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C25H30O3Si
